US07423036B2
d) methyl 3-(5-methyl-1H-[1,2,4]triazol-3-yl)-benzoate
8.10 g (34.4 mmol) methyl 3-[N′-(1-imino-ethyl)-hydrazinocarbonyl]-benzoate are heated to 180° C. for 30 minutes. 80 mL chloroform are added to the solid obtained after cooling. The suspension is filtered and the product is dried. White solid.

reactant | methyl 3-[N′-(1-imino-ethyl)-hydrazinocarbonyl]-benzoate | 34.4 mmol, 8.10 g | N=C(C)NNC(=O)C=1C=C(C(=O)OC)C=CC1 | C11H13N3O3
solvent | chloroform | 80 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 3-(5-methyl-1H-[1,2,4]triazol-3-yl)-benzoate | CC1=NC(=NN1)C=1C=C(C(=O)OC)C=CC1 | C11H11N3O2
